* BGA616 spice model from Infineon (Siemens)
* includes transistor model and SOT323 package
*
.subckt BGA616 1 2 ref

* SPICE Model BGA616
* BGA616-Chip
* Q1  T1
* Q2  T1 (area factor: 0.5)
Q1  7  6  9  T1_BGA616
Q2  7  9 10  T1_BGA616 0.5
R1  6  7  625ohm
R2  6  8  625ohm
R3  8  9  80ohm
R4  8 10  4ohm

* SOT323 package equivalent circuit for BGA616
LBI  3  6  0.47nH
LB0  1  3  0.53nH
LEI  5  8  0.23nH
LEO ref 5  0.05nH
LCI  4  7  0.56nH
LCO  2  4  0.58nH
CBE  3  5  136fF
CCB  3  4  6.9fF
CCE  4  5  134fF

.MODEL T1_BGA616 NPN(
+ IS=2.6e-015 BF=105 NF=1.021 VAF=1000 IKF=2.262 ISE=2.978E-12 NE=3.355 BR=100 
+ NR=1 VAR=1.2 IKR=0.00631 ISC=1.923E-14 NC=2.179 RB=2.674 IRB=1.8E-05 RBM=2.506 
+ RE=0.472 RC=2.105 XTB=-0.9 EG=1.114 XTI=3.43 CJE=3.716E-13 VJE=0.8986 MJE=0.3152 
+ TF=1.306E-12 XTF=2.71 VTF=0.492 ITF=2.444 PTF=0 CJC=2.256E-13 VJC=0.7395 
+ MJC=0.3926 XCJC=1 TR=3.884E-10 CJS=6E-14 VJS=0.5 MJS=0.5 FC=0.8215)

.ends BGA616
